US08455483B2
e) (9-(3-(2-Hydroxyethyl)phenethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone
To a suspension of (2-isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone hydrochloride in a solution of 2-(3-(2-bromoethyl)phenyl)ethanol (1.15 molar equivalents) in acetonitrile (10 volumes) at room temp was added potassium carbonate (4 molar equivalents) followed by water (0.167 volumes. The mixture was stirred at 60° C. for 66 hours, cooled to room temp, filtered, washed with MeCN and concentrated in vacuo to leave a crude orange gum. This gum was dissolved in EtOAc (3 volumes) and washed with 2N HCl (1.1 molar equivalents). The aqueous layer was basified using 2N NaOH (1.5 molar equivalents) and extracted with TBME (2×2 volumes) [an oil appeared at the interface which would not dissolve in TBME]. The combined organics and oil were diluted with EtOAc (1 volume) [oil dissolved], dried (Na2SO4), filtered and concentrated in vacuo to leave an orange gum. Yield: 88% of theoretical.

reactant | (2-isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone hydrochloride | Cl.C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2
reactant | 2-(3-(2-bromoethyl)phenyl)ethanol | 1.15 molar | BrCCC=1C=C(C=CC1)CCO | C10H13BrO
reactant | potassium carbonate | 4 molar | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (9-(3-(2-Hydroxyethyl)phenethyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | Yield: 88% | OCCC=1C=C(CCN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)C(C)C)CC2)C=CC1 | C25H35N3O3S
